* CSD1810Q5B
***********************************************************************
* (C) Copyright 2017 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
******************************************************************************
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD1810Q5B
* Date: 06AUG2018
* Model Type: 
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS632 –MARCH 2017
* Model Version: Final 1.00
*
*****************************************************************************
* PSpice Model Editor - Version 16.6.0
*$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD18510Q5B   -  PSpice Model for use with OrCAD/Allegro           *
*                                                                    *
**********************************************************************
* Characteristics:
*   Technology:  n-channel 40/20
*   Assembly:    QFN5x6
*
**********************************************************************
* Model History
*
*   Initial model.     gd 01/30/2017
*   Updated model,     gd 11/20/2017
*   
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT csd18510q5b  1 2 3
.PARAM  ptrc1   7.11e-3  
.PARAM  ptrc2   2.34e-5
.PARAM  pAA	    10.856327
.PARAM  pwidth  {pAA/0.8*2}
.PARAM  perim   {2.1*pwidth}
.PARAM  perp    {1.01*pwidth}
.PARAM  pRgate  0.90
.PARAM  pCJO    62e-12
M1   10 11 12 12  NMOS	W={pwidth} L=0.65u  PD={0} PS={perim}
M2   12 11 12 20  PMOSd W={pwidth} L=0.067u PS={perp} PD={perp}
DDx  20  10  DD
DBD   8  7	 DBD	{pwidth/2}
RDB   8  7   8e10
CGD0  5  7	 0.5e-12
CGS0  5  8	 100e-12
CDS0 10 12	 {7.9e-12 * pwidth}
DGD  14 10	 DD	{pwidth}
DDG  14  5	 DD	{pwidth}
RDC  14  5   1e10
LGG   2  5	 1.7e-9
RGG   5 11	 {0.6 + pRgate}
RSB  12  9	 RTEMP 0.01e-3
RSS   9  8	 RTEMP 0.08e-3
RSP   8  6   0.07e-3
LSS   6  3	 0.40E-9
RDP   4  7	 0.02e-3
RDD   7 10   RTEMP 0.457e-3
LDD   1  4	 0.1E-9
*******************************************************************
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version = 3.2
+ TNOM   = 27            LINT   = 0.060e-6      CAPMOD = 2
+ TOX    = 5.50e-8       NCH    = 1.330e17      NSUB   = 8.0e15
+ AGS    = 0.0           PVAG   = 0.0           VOFFCV = 0.3
+ U0     = 360		 VSAT   = 8.4e4
+ A0     = 2.2           A1     = 0.1           A2     = 1.0
+ UA     = 0.9e-9        UB     = 8e-19         VBM    = -10.0
+ UA1    = 3.3e-9        UB1    =-1e-19         UTE    = -0.60
+ KT1    = -0.91         KT2    = 0.022         KT1L   = 1.0e-10
+ DVT0   = 2.15          DVT1   = 0.54	      DVT2   = -0.033
+ ETA0   = 0.05          ETAB   = -0.07         XJ     = 3e-7
+ PDIBLC1= 0.50          PDIBLC2= 0.012         NLX    = 1.74e-7
+ PSCBE1 = 4.2e8         PSCBE2 = 2.5e-6        PCLM   = 1.3
+ VOFF   = -0.32         NFACTOR= 1.18          JS     = 0
+ DROUT  = 0.88          DSUB   = 0.90          DELTA  = 0.09
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 25e-12        CGDO   = 15.2e-12        CGBO   = 0   )
*******************************************************************
.MODEL  PMOSd   PMOS (   LEVEL  = 3
+ TNOM   = 27            VTO    = -5            IS     = 1.0e-18
+ TOX    = 5.5e-8        NSUB   = 1e16
+ CJ     = 1e-18         CJSW   = 1e-18 
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
*******************************************************************
.MODEL DBD D (CJO=550e-12 VJ=0.99 M=1.14 FC=0.5 TT=3e-09 TNOM=27
+  IS=5.7e-12 N=1.055 RS=7.8e-3 TRS1=3.5e-3 TRS2=-1.0e-6 XTI=3.2 
+  BV=42 TBV1=8.4e-4 TBV2=-2.3e-6 NR=3.3 ISR=2.35e-10)
*******************************************************************
.MODEL DD  D (CJO={2*pCJO} VJ=0.78 M=1.68 IS=1e-15 RS=10 TNOM=27 
+  FC=0.90 )
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS csd18510q5b
*
*$
